US07094777B2
A stirred mixture of 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride (150 mg, 0.56 mmol), 2-butanone (5 mL), potassium carbonate (0.25 g, 1.81 mmol), sodium iodide (20 mg, 0.13 mmol) and 4-chloro-1-(4-fluorophenyl)butan-1-one (115 μL, 0.68 mmol) was heated at reflux for 5 h under an inert atmosphere. The cooled reaction mixture was partitioned between EtOAc and water. The EtOAc extracts were washed with water and saturated brine then dried (MgSO4), filtered and concentrated in vacuo. The resultant material was purified by column chromatography on silica eluted with a gradient of 0–15% MeOH-EtOAc to give the free base. This was dissolved in EtOAc and treated with 1M HCl in diethyl ether. The solvents was removed in vacuo to give 1-(4-fluorophenyl)-4-(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)butan-1-one hydrochloride as a white solid (16 mg). 1H NMR (400 MHz, CD3OD) δ 1.90–1.99 (2H, m), 3.17 (2H, t, J=6.6 Hz), 3.25–3.35 (3H, m), 3.68 (2H, d, J=7.3 Hz), 4.0–4.2 (2H, br s), 4.2–4.4 (2H, br s), 7.20–7.27 (2H, m), 7.39–7.46 (2H, m), 7.98–8.04 (2H, m), 8.05–8.10 (2H, m). m/z (ES+) 394 (M+H)+.

reactant | 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride | 0.56 mmol, 150 mg | Cl.FC1=CC=C(C=C1)S(=O)(=O)CC1CNC1
reactant | potassium carbonate | 1.81 mmol, 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
reactant | 4-chloro-1-(4-fluorophenyl)butan-1-one | 0.68 mmol, 115 μL | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | HCl | 1M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | 2-butanone | 5 mL | CC(CC)=O | C4H8O
product | 1-(4-fluorophenyl)-4-(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)butan-1-one hydrochloride | 16 mg | Cl.FC1=CC=C(C=C1)C(CCCN1CC(C1)CS(=O)(=O)C1=CC=C(C=C1)F)=O | InChI=1S/C20H21F2NO3S.ClH/c21-17-5-3-16(4-6-17)20(24)2-1-11-23-12-15(13-23)14-27(25,26)19-9-7-18(22)8-10-19;/h3-10,15H,1-2,11-14H2;1H
